US06809097B1
1,1′-(Azodicarbonyl)dipiperidine (963 mg, 4 mmol) was added in portions to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinoline (400 mg, 1.2 mmol), (prepared as described for the starting material in Example 42), tributylphosphine (921 μl, 4 mmol) and 3-(dimethylamino)-1-propanol (179 μl, 1.5 mmol) in methylene choride (50 ml) at 10° C. under argon. The mixture was stirred for 18 hours at ambient temperature, was diluted with ether and the insoluble materials were removed by filtration. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate, washed with water and brine and dried (MgSO4). The volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol/triethylamine (97/3/0 increasing to 75/25/0.5). The purified product was dissolved in methanol and 1M ethereal hydrogen chloride (8 ml) was added. The volatiles were removed by evaporation and the residue was triturated with methylene chloride, collected by filtration washed with ether and dried to give 4-(4-chloro-2-fluoroanilino)-7-(3-(dimethylamino)propoxy)-6-methoxyquinoline (94 mg, 20%).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 4 mmol, 963 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinoline | 1.2 mmol, 400 mg | ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C16H12ClFN2O2
reactant | tributylphosphine | 4 mmol, 921 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3-(dimethylamino)-1-propanol | 1.5 mmol, 179 μl | CN(CCCO)C | C5H13NO
solvent | methylene choride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 4-(4-chloro-2-fluoroanilino)-7-(3-(dimethylamino)propoxy)-6-methoxyquinoline | 94 mg, 20% | ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)OCCCN(C)C)C=C1)F | C21H23ClFN3O2
